US09084794B2
3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoic acid
A solution of methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoate (0.238 mmol) in ethanol (1 mL) was treated with LiOH (0.476 mmol) and stirred at room temperature for four days. The reaction mixture was concentrated in vacuo and the residue purified by reverse phase HPLC (15-50% acetonitrile/water with 0.1% NH4OH) to afford the title compound as a white solid (72%). MS(ES)+ m/e 486.3 [M+H]+.

reactant | methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoate | 0.238 mmol | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)OC)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C30H33N3O4
reactant | LiOH | 0.476 mmol | [Li+].[OH-]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoic acid | 72% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)O)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C29H31N3O4
